US07781434B2
b) 7-chloro-2-((S)-1-cyclopropylethyl)-5-ethynylisoindolin-1-one
7-chloro-2-((S)-1-cyclopropylethyl)-5-(2-(trimethylsilyl)ethynyl)isoindolin-1-one (40.88 g, 123.17 mmol) was dissolved in 250 mL of ethanol and stirred at room temperature. To the reaction mixture was added a solution of potassium hydroxide (0.10 g, 1.85 mmol) in 20 mL of water. The reaction immediately turned black and was allowed to continue stirring for 90 minutes at room temperature. The volatiles were removed under reduced pressure and the product purified by flash chromatography on silica gel eluting with a gradient of 0 to 40% ethyl acetate in hexane. This afforded the desired product as a light tan solid (20.75 g, 69.7%). 1H NMR (300 MHz, CDCl3) δ ppm 0.34-0.50 (m, 3H) 0.58-0.69 (m, 0.93-1.07 (m, 1H) 1.34 (d, 3H) 3.22 (s, 1H) 3.76 (dq, 1H) 4.31-4.54 (m, 2H) 7.45 (s, 1H) 7.51 (s, 1H). MS ESI m/z=260 (M+H). HPLC Method B: 0.80 min.

reactant | 7-chloro-2-((S)-1-cyclopropylethyl)-5-(2-(trimethylsilyl)ethynyl)isoindolin-1-one | 123.17 mmol, 40.88 g | ClC=1C=C(C=C2CN(C(C12)=O)[C@@H](C)C1CC1)C#C[Si](C)(C)C | C18H22ClNOSi
reactant | potassium hydroxide | 1.85 mmol, 0.10 g | [OH-].[K+]
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
product | 7-chloro-2-((S)-1-cyclopropylethyl)-5-ethynylisoindolin-1-one | 20.75 g, 69.7% | ClC=1C=C(C=C2CN(C(C12)=O)[C@@H](C)C1CC1)C#C | C15H14ClNO
